US04599327
3.18 g. of 3,5-dibenzyloxy-benzaldehyde [L.A. Svensson, Kem. Tidskr., 87, 289 (1975)] and 1.6 g. of malonic acid are stirred in a mixture of 8 ml. of pyridine and 0.1 ml. of piperidine for 3 hours at 100° C. 25 ml. of 15% hydrochloric acid are then added, whereafter the product is filtered by suction, washed with water and dried. The crude product is crystallized from 150 ml. of methanol and 3 g. of 3-(3,5-dibenzyloxy-phenyl)-propenoic acid melting at 154°-156° C. are obtained. The product is suspended in 250 ml. of abs. ether, 0.90 g. of lithium aluminum hydride is added and the mixture is heated under stirring for 5 hours. After cooling the excess hydride is decomposed by acetone and acidified with 100 ml. of 10% hydrochloric acid. The two layers are separated and the aqueous layer is shaken out with ether again, the combined organic layer is washed with water, dried on magnesium sulphate and evaporated. 2.88 g. of 3-(3,5-dibenzyloxy-phenyl)-1propanol are obtained, m.p.: after recrystallization from n-hexane: 48°-50° C. 5.47 g. of the above alcohol are dissolved in 30 ml. of abs. pyridine and 2.26 g. (1.5 ml., 0.020 mole) of methane sulfonic acid chloride are added and the mixture is poured after 30 minutes to a mixture of 300 g of ice and 75 ml. of cc. HCl. The product is extracted with 125 ml. of dichloromethane and the organic layer is washed with 2×20 ml. of saturated hydrochloric acid solution, dried above magnesium sulphate and evaporated. 6.2 g. of 3-(3,5-dibenzyloxy-phenyl)-1-methanesulfonyloxy-propane are obtained, from which 2.60 g. are heated for 15 minutes with 20 ml. of 1 N sodium methylate and the solution is poured to 220 ml. of 1% hydrochloric acid solution. The product is extracted with dichloromethane, the extract is dried and evaporated. The residue (1.9 g.) is subjected to column chromatography and as eluants benzene and methyl ethyl ketone solvents are used. 1.30 g. of 1-(3,5-dibenzyloxy-phenyl)-3-methoxy-propane are obtaned as colorless oil,

reactant | 3,5-dibenzyloxy-benzaldehyde | C(C1=CC=CC=C1)OC=1C=C(C=O)C=C(C1)OCC1=CC=CC=C1 | C21H18O3
reactant | malonic acid | C(CC(=O)O)(=O)O | C3H4O4
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 3-(3,5-dibenzyloxy-phenyl)-propenoic acid | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)OCC1=CC=CC=C1)C=CC(=O)O | C23H20O4
